US06087357
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)piperazine (5 g) and 3-bromopropanol (1.68 g) in N,N-dimethylformamide (40 ml) was heated at 60° C. in the presence of potassium carbonate (4.55 g). After 9 hours, the reaction mixture was poured into water (400 ml) and extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. After evaporation of the solvent, the obtained residue was purified by column chromatography on silica gel using dichloromethanemethanol (30:1) as an eluent to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(3-hydroxypropyl)-2-(1H-indol-3-ylmethyl)piperazine (4.36 g) as a powder.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)piperazine | 5 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O
reactant | 3-bromopropanol | 1.68 g | BrCCCO | C3H7BrO
reactant | potassium carbonate | 4.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 400 ml | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(3-hydroxypropyl)-2-(1H-indol-3-ylmethyl)piperazine | 4.36 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCCO)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C25H25F6N3O2
